US07781454B2
Step 1 tert-butyl {2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl}carbamate
Pyridine (0.061 mL, 0.756 mmol) was added to a suspension of 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile (165 mg, 0.378 mmol) in DCM (10 mL) at 0° C., followed by the addition in a single charge of triphosgene (45 mg, 0.151 mmol) as a solid, and then by the addition of diisopropyl ethylamine (0.198 mL, 1.135 mmol). This suspension was allowed to stir at 0° C. until a solution was achieved. 2-[(tert-Butoxycarbonyl)amino]-N-methylethanaminium chloride (120 mg, 0.567 mmol) was then added as a solid followed by diisopropyl ethylamine (0.198 mL, 1.135 mmol). The reaction mixture was allowed to warm to room temperature and after 10 minutes, the reaction mixture was diluted with dichloromethane (25 mL), washed with water (15 μL), and the aqueous layer was extracted with dichloromethane (25 mL). The combined organic fractions were dried (MgSO4), filtered and concentrated. The resulting residue was purified by automated column chromatography on silica gel (12 g), eluting with 50-100% EtOAc/hexanes to afford the title compound. LRMS (M+1)=635.6.

reactant | Pyridine | 0.756 mmol, 0.061 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | 0.378 mmol, 165 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl | C20H11Cl2N7O
reactant | triphosgene | 0.151 mmol, 45 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropyl ethylamine | 1.135 mmol, 0.198 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[(tert-Butoxycarbonyl)amino]-N-methylethanaminium chloride | 0.567 mmol, 120 mg | [Cl-].C(C)(C)(C)OC(=O)NCC[NH2+]C
reactant | diisopropyl ethylamine | 1.135 mmol, 0.198 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-butyl {2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl}carbamate | ClC1=C(C2=C(N(N=N2)CC2=NN(C3=NC=CC=C32)C(=O)N(CCNC(OC(C)(C)C)=O)C)C=C1)OC1=CC(=CC(=C1)C#N)Cl | C29H27Cl2N9O4
